US07332500B2
To a solution of 4-butyl-1-oxa-3,8-diaza-spiro[4.5]decane-2-one (12: R=H; R′=n-Bu; 1.09 g; 5.1 mmol)) in 30 mL DCM was added 1.24 g (5.4 mmol) of 1-(2,6-dimethyl-benzoyl)-piperidin-4-one followed by 2.1 mL (7.1 mmol) of Ti(IV)(O-i-Pr)4 The reaction mixture stirred under nitrogen for 18 h. of Sodium triacetoxyborohydride (1.6 g: 7.7 mmol) was added to the reaction mixture followed by glacial HOAc (0.365 mL; 6.4 mmol). The reaction mixture stirred for 24 h. Aqueous ammonia (20 mL; 10% aqueous solution) was added and the solution stirred for an additional 10 min. The mixture was filtered by gravity through a cartridge of ChemElute™. The organics were evaporated under reduced pressure and the residue was purified by flash chromatography on silica gel with gradient elution (2% to 10% methanol in ethyl acetate with 0.4% ammonia) to provide 1.6 g (73%) of 4-butyl-8-[1-(2,6-dimethyl-benzoyl)-piperidin-4-yl]-1-oxa-3,8-diaza-spiro[4.5]decane-2-one: ms [M]+=428.

reactant | 4-butyl-1-oxa-3,8-diaza-spiro[4.5]decane-2-one | C(CCC)C1NC(OC12CCNCC2)=O | C11H20N2O2
reactant | 1-(2,6-dimethyl-benzoyl)-piperidin-4-one | 5.4 mmol, 1.24 g | CC1=C(C(=O)N2CCC(CC2)=O)C(=CC=C1)C | C14H17NO2
reactant | Sodium triacetoxyborohydride | 7.7 mmol, 1.6 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | HOAc | 6.4 mmol, 0.365 mL | CC(=O)O | C2H4O2
reactant | ammonia | 20 mL | N | H3N
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | 4-butyl-8-[1-(2,6-dimethyl-benzoyl)-piperidin-4-yl]-1-oxa-3,8-diaza-spiro[4.5]decane-2-one | 1.6 g, 73% | C(CCC)C1NC(OC12CCN(CC2)C2CCN(CC2)C(C2=C(C=CC=C2C)C)=O)=O | C25H37N3O3
